data/oMe_Silver.jsonl
{"reaction_id": "NR-316_1-OC_2-OC_3-c2ccccc2_4-C#N_5-OC","level": "medium","name": "Vilsmeier-Haack Formylation","reactants_smiles": ["c1c(OC)c(OC)c(c2ccccc2)c(C#N)c1OC","CN(C)C=O","O=P(Cl)(Cl)Cl"],"products_smiles": ["c1(C=O)c(OC)c(OC)c(c2ccccc2)c(C#N)c1OC"],"conditions": "1. POCl3, DMF; 2. H2O","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C[N+](C)=COP([O-])(Cl)(Cl)Cl","step_weight": 0,"rationale": "DMF oxygen attacks electrophilic phosphorus in POCl3 due to strong P=O polarization, forming a stabilized adduct."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CN(C)C=[O+]P(=O)(Cl)Cl","step_weight": 0,"rationale": "Chloride elimination occurs as POCl3 is a good leaving group source, generating a more electrophilic iminium-type phosphorus species."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "ClC(N(C)C)OP(=O)(Cl)Cl","step_weight": 0,"rationale": "Chloride attacks the activated DMF–POCl3 complex at the carbon center, driven by positive charge and good leaving group potential."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "ClC(=[N+](C)C)","step_weight": 0,"rationale": "Elimination of the phosphoryl group yields the iminium chloride, stabilized by resonance between nitrogen and carbon."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1(OC)c(C#N)c(c2ccccc2)c(OC)[C+](OC)C1C(Cl)N(C)C","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the iminium carbon, favored by strong electrophilicity and resonance stabilization of the arenium ion."},{"step": 6,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "CN(C)C(Cl)c1c(OC)c(OC)c(c2ccccc2)c(C#N)c1OC","step_weight": 0,"rationale": "Proton elimination restores aromaticity, a thermodynamically favorable step in electrophilic aromatic substitution."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[N+](C)C)c1c(OC)c(OC)c(c2ccccc2)c(C#N)c1OC","step_weight": 0,"rationale": "Dimethylamino group leaves as a stable amine, driven by formation of a conjugated iminium intermediate."},{"step": 8,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "O=Cc1c(OC)c(OC)c(c2ccccc2)c(C#N)c1OC","step_weight": 0,"rationale": "Water attacks the iminium carbon during aqueous workup, hydrolyzing it to the aldehyde under acidic conditions."}],"description": "POCl3 activates DMF to form an electrophilic iminium species, which undergoes electrophilic aromatic substitution with the aromatic ring. Subsequent elimination and hydrolysis steps yield the formylated aromatic product under Vilsmeier–Haack conditions."}
{"reaction_id": "NR-322_1-c2ccccc2_2-Br_3-c2ccccc2_4-c2ccoc2","level": "easy","name": "Wittig Reaction","reactants_smiles": ["c1ccccc1[P+](c1ccccc1)(c1ccccc1)C([H])(c2ccccc2)Br","O=C(c2ccccc2)c2ccoc2"],"products_smiles": ["C(=C(c2ccccc2)c2ccoc2)(c2ccccc2)Br","O=P(c1ccccc1)(c1ccccc1)c1ccccc1"],"conditions": "Strong base (e.g., LDA, nBuLi)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c1ccccc1)(c1ccccc1)[C-](c2ccccc2)Br","step_weight": 0,"rationale": "The strong base abstracts the acidic α-proton next to the positively charged phosphorus, stabilized by adjacent phenyl groups through inductive and resonance effects, generating the nucleophilic ylide."},{"step": 2,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "c1ccccc1P1(c2ccccc2)(c2ccccc2)OC(c2ccccc2)(c2ccoc2)C1(c2ccccc2)Br","step_weight": 0,"rationale": "The nucleophilic ylide carbon attacks the electrophilic carbonyl carbon, while the carbonyl oxygen coordinates to phosphorus, forming a four-membered oxaphosphetane via concerted cycloaddition favored by orbital symmetry."},{"step": 3,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(=C(c2ccccc2)c2ccoc2)(c2ccccc2)Br","step_weight": 0,"rationale": "The strained oxaphosphetane undergoes cycloreversion, driven by relief of ring strain and formation of strong P=O and C=C bonds, yielding the alkene and triphenylphosphine oxide."}],"description": "A strong base deprotonates the phosphonium salt to form a stabilized ylide, which undergoes [2+2] cycloaddition with the carbonyl to give an oxaphosphetane intermediate. Cycloreversion then yields the alkene and triphenylphosphine oxide as the thermodynamically favored products."}
